US09382356B2
(iii) Synthesis of dibenzylmethylene(cyclopentadienyl)(2,7-di[2-naphthyl]-3,6-ditert-butylfluorenyl)zirconium dichloride
Under a nitrogen atmosphere, a 100-mL Schlenk flask was charged with 0.64 g (0.811 mmol) of dibenzylmethylene(cyclopentadienyl)(2,7-di[2-naphthyl]-3,6-ditert-butylfluorene) and 40 mL of dehydrated diethyl ether, and the mixture was stirred. This mixed slurry solution was cooled in an ice bath, 1.14 mL (1.82 mmol) of a 1.60 mol/L hexane solution of n-butyllithium was added. The mixture was stirred for 42 hours while gradually warming to room temperature. This red reaction solution was cooled to −78° C. in a dry ice/methanol bath, and then 0.180 g (0.772 mmol) of zirconium tetrachloride was added. Subsequently, the mixture was stirred for 47 hours while gradually warming to room temperature to obtain an orange colored suspension. The solvent was removed by distillation under reduced pressure. Under a nitrogen atmosphere, the residue was dissolved in n-hexane, and the liquid was passed through a glass filter filled with Celite, insolubles were washed with n-hexane, and the red powder insoluble in n-hexane was subjected to extraction with dichloromethane. The solvent in which the dichloromethane-solubles were dissolved was distilled off. The residue was washed with diethyl ether/n-hexane to obtain a target product as a red-orange powder (yield 379 mg (49%)). The target product was identified by 1H-NMR and FD-MS spectroscopy.

reactant | dibenzylmethylene(cyclopentadienyl)(2,7-di[2-naphthyl]-3,6-ditert-butylfluorene) | 0.811 mmol, 0.64 g | C(C1=CC=CC=C1)C(CC1=CC=CC=C1)=C1C(=C(C(=C2C=C3C=C(C(=CC3=C12)C(C)(C)C)C1=CC2=CC=CC=C2C=C1)C1C=CC=C1)C1=CC2=CC=CC=C2C=C1)C(C)(C)C | C61H54
reactant | diethyl ether | 40 mL | C(C)OCC | C4H10O
reactant | n-butyllithium | C(CCC)[Li]
reactant | zirconium tetrachloride | 0.772 mmol, 0.180 g | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
solvent | hexane | 1.60 mol/L | CCCCCC | C6H14
product | dibenzylmethylene(cyclopentadienyl)(2,7-di[2-naphthyl]-3,6-ditert-butylfluorenyl)zirconium dichloride | yield 379 mg, 49% | [Cl-].[Cl-].C(C1=CC=CC=C1)C(CC1=CC=CC=C1)=[Zr+2](C1=C(C(=CC=2C3=CC(=C(C=C3CC12)C1=CC2=CC=CC=C2C=C1)C(C)(C)C)C(C)(C)C)C1=CC2=CC=CC=C2C=C1)C1C=CC=C1 | InChI=1S/C41H37.C15H14.C5H5.2ClH.Zr/c1-40(2,3)38-24-34-32(22-36(38)30-17-15-26-11-7-9-13-28(26)19-30)21-33-23-37(39(25-35(33)34)41(4,5)6)31-18-16-27-12-8-10-14-29(27)20-31;1-3-8-14(9-4-1)12-7-13-15-10-5-2-6-11-15;1-2-4-5-3-1;;;/h7-20,22,24-25H,21H2,1-6H3;1-6,8-11H,12-13H2;1-5H;2*1H;/q;;;;;+2/p-2
